*sj
*gnd (4,1)
*w
*w2 2 1 0, w2 2 3 1, w1 2 4 1, w2 3 4 1, w2 3 5 1, w2 3 6 1, w2 3 7 1
*w1 3 8 1, w1 4 8 1, w1 6 8 4, w1 7 8 4, w1 8 8 4, w1 9 8 4 
*w4 10 8 4,w4 10 7 4, w4 10 6 4, w4 10 5 4,w4 11 4 0, w4 11 3 0, w4 11 2 0
*w3 11 1 0, w3 10 1 0, w3 9 1 0, w3 8 1 0, w3 7 1 0, w3 6 1 0,w3 5 1 0, w3 4 1 0, w3 3 1 0
*w1 4 4 2, w1 6 4 3 , w1 8 4 4, w1 9 4 4, w1 7 7 4, w1 8 7 4, w1 9 7 4, w1 5 7 2
*w2 5 4 2, w2 5 5 2, w2 5 6  2
*/w
*/sj

 R1 3 4 100 *sj 7 4 1 */sj
 R2 1 0 50 *sj 2 2 2 */sj
 R3 1 2 150 *sj 3 4 1 */sj
 R4 2 4 200 *sj 6 7 1 */sj
 R5 1 4 250 *sj 5 8 1 */sj
V1 2 3 15v *sj 5 4 1*/sj
V2 4 0 20v *sj 10 4 1 */sj

.end